US07777038B2
8-Methyl-5-trifluoromethanesulfonyloxy-3,4-dihydro-1H-quinolin-2-one (4.0 g), zinc cyanide (3.34 g) and tetrakis(triphenylphosphine)palladium (0.299 g) were suspended in DMF (40 ml), and the suspension was stirred at 100° C. for 4 hours. The insoluble matter was filtered off, and ethyl acetate was added to the filtrate, followed by washing with water. After drying over anhydrous magnesium sulfate, the dry product was concentrated, and the residue was recrystallized from a DMF-ethanol mixed solvent to thereby obtain 2.1 g (yield: 87%) of 5-cyano-8-methyl-3,4-dihydro-1H-quinolin-2-one as a light brown powder.

reactant | 8-Methyl-5-trifluoromethanesulfonyloxy-3,4-dihydro-1H-quinolin-2-one | 4.0 g | CC=1C=CC(=C2CCC(NC12)=O)OS(=O)(=O)C(F)(F)F | C11H10F3NO4S
reactant | DMF | 40 ml | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 3.34 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 0.299 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-cyano-8-methyl-3,4-dihydro-1H-quinolin-2-one | 2.1 g, yield: 87% | C(#N)C1=C2CCC(NC2=C(C=C1)C)=O | C11H10N2O
